US08431575B2
{2-[5-(4-Benzyloxy-phenyl)-6-butyl-pyridazin-3-yloxy]-ethyl}-diethyl-amine dihydrochloride
{2-[5-(4-Benzyloxy-phenyl)-6-butyl-pyridazin-3-yloxy]-ethyl}-diethyl-amine was dissolved in 4.0 M HCl in dioxane and the solvent was evaporated. The resultant salt was washed with ether and dried to provide the title compound (19 mg). LCMS: m/z 435 [M+1]. 1H NMR (400 MHz, CD3OD) δ 7.89 (1H, s), 7.50-7.53 (2H, m), 7.45-7.47 (2H, m), 7.36-7.40 (2H, m), 7.30-7.34 (1H, m), 7.20-7.24 (2H, m), 5.20 (2H, S), 3.74 (2H, t), 3.35-3.42 (4H, m), 3.15 (2H, t), 1.48-1.53 (2H, m), 1.4 (6H, t), 1.21-1.32 (4H, m), 0.81 (3H, t).

reactant | {2-[5-(4-Benzyloxy-phenyl)-6-butyl-pyridazin-3-yloxy]-ethyl}-diethyl-amine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1C=C(N=NC1CCCC)OCCN(CC)CC | C27H35N3O2
reactant | HCl | 4.0 M | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | {2-[5-(4-Benzyloxy-phenyl)-6-butyl-pyridazin-3-yloxy]-ethyl}-diethyl-amine dihydrochloride | 19 mg | Cl.Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1C=C(N=NC1CCCC)OCCN(CC)CC | InChI=1S/C27H35N3O2.2ClH/c1-4-7-13-26-25(20-27(29-28-26)31-19-18-30(5-2)6-3)23-14-16-24(17-15-23)32-21-22-11-9-8-10-12-22;;/h8-12,14-17,20H,4-7,13,18-19,21H2,1-3H3;2*1H
